US06916898B2
Distillation was conducted in the same manner as in Example A2 except that the internal pressure of flask of 1.33×103 Pa was used instead of that of 1.33×104 Pa in Example A2, to thereby obtain about 10 g each of the forerun, middle-run, post-run and bottom. The compositions of N-methyl-2-pyrrolidone and m-cresol contained therein were determined in the same manner as in Example A2 to give each the same composition, N-methyl-2-pyrrolidone/m-cresol=47.8% by weight/52.2% by weight (1:1 by molar ratio), that is, no difference in compositions thereof was found.

reactant | m-cresol | C1=C(C=CC=C1O)C | C7H8O
reactant | N-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
product | N-methyl-2-pyrrolidone m-cresol | CN1C(CCC1)=O.C1=C(C=CC=C1O)C | InChI=1S/C7H8O.C5H9NO/c1-6-3-2-4-7(8)5-6;1-6-4-2-3-5(6)7/h2-5,8H,1H3;2-4H2,1H3
